US06667412B1
Synthesis of 4-cyano-5-methyl-4-phenylhexanol
A 4-cyano-5-methyl-4-phenylhexanoic acid (500 mg, 2.16 mmol)/tetrahydrofuran (3.84 ml) solution was slowly added dropwise into a 1M-borane tetrahydrofuran complex/tetrahydrofuran solution (2.70 ml, 2.70 mmol) cooled to −25° C., while keeping the bulk temperature at −15° C. or less. After the completion of the dropwise addition, the bulk temperature was elevated to room temperature. After the completion of the reaction, it was cooled again and methanol (0.33 ml) was added dropwise thereinto. Further, a saturated aqueous sodium hydrogen carbonate solution (200 ml) was added thereinto, followed by extracting with ethyl acetate. The organic layer was successively washed with water, brine and saturated aqueous sodium hydrogen carbonate, followed by drying over magnesium sulfate and evaporating the solvent. The residue was purified by 20 g of Cromatorex NH silica gel (ethyl acetate/hexane system), to give the title compound as a colorless highly viscous oil (426 mg, 1.96 mmol, yield: 90.8%).

reactant | 4-cyano-5-methyl-4-phenylhexanoic acid | 2.16 mmol, 500 mg | C(#N)C(CCC(=O)O)(C(C)C)C1=CC=CC=C1 | C14H17NO2
reactant | tetrahydrofuran | 3.84 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 2.70 mmol, 2.70 ml | O1CCCC1 | C4H8O
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 0.33 ml | CO | CH4O
product | 4-cyano-5-methyl-4-phenylhexanol | C(#N)C(CCCO)(C(C)C)C1=CC=CC=C1 | C14H19NO
